US05102877
To a solution of (3S,4R)-4-[2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridine-4-yl)-2-oxoethyl]-3-[(1R)-1-hydroxyethyl]-2-oxoazetidine (3.59 g) and pyridine (3.9 ml in dichloromethane (3.5 ml) was added dropwise trimethylsilyl chloride (1.42 ml) at -70° C. under nitrogen atmosphere and the mixture was stirred for 1 hour. To this solution was added dropwise at -70° C. a reaction mixture of oxalyl chloride (1.26 ml) and 4-nitrobenzyl alcohol (2.3 g) in dichloromethane (10 ml) at 0° C., which solution was stirred for additional 1 hour. The reaction mixture was poured into a mixture of ethyl acetate (70 ml) and water (40 ml). The organic layer was separated, washed with water (50 ml) containing acetic acid (550 μl), and brine (50 ml) successively, and then dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (250 ml) eluting with a mixture of hexane and ethyl acetate (1:1, V/V) to give 4-nitrobenzyl 2-[(3S,4R)-4-{ 2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl}-3-{(1R)-1-trimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-oxoacetate (4.73 g).

reactant | (3S,4R)-4-[2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridine-4-yl)-2-oxoethyl]-3-[(1R)-1-hydroxyethyl]-2-oxoazetidine | 3.59 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O)=O | C20H24N2O5
reactant | trimethylsilyl chloride | 1.42 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | oxalyl chloride | 1.26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-nitrobenzyl alcohol | 2.3 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-nitrobenzyl 2-[(3S,4R)-4-{ 2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl}-3-{(1R)-1-trimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-oxoacetate | 4.73 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C(C[C@@H]1[C@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)[C@@H](C)O[Si](C)(C)C)=O | C32H37N3O10Si
